US08349885B2
To a mixed solution of diethyl ether (400 ml) and conc. hydrochloric acid (400 ml) was added in drops 4-methoxybenzyl chloride (280 g, 1780 mmol) dissolved in diethyl ether (400 ml) for 2 h, and the mixture was stirred for 1 h. The organic layer was separated and added to a solution which was prepared by dissolving L-cysteine (197 g, 1625 mmol) and 2N aqueous sodium hydroxide solution (980 ml) in ethanol (1890 ml). The mixture was stirred for 2 h at room temperature. After completion of the reaction, the mixture was cooled to 0° C., and neutralized to pH 7 using 3N aqueous hydrochloric acid solution. The resulting solid was filtered and dried to give (R)-2-amino-3-(4-methoxy-benzylsulfanyl)-propionic acid (250 g, 1035 mmol, Yield 64%).

reactant | hydrochloric acid | 400 ml | Cl | ClH
reactant | 4-methoxybenzyl chloride | 1780 mmol, 280 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | L-cysteine | 1625 mmol, 197 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | sodium hydroxide | 2N, 980 ml | [OH-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | ethanol | 1890 ml | C(C)O | C2H6O
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | (R)-2-amino-3-(4-methoxy-benzylsulfanyl)-propionic acid | 1035 mmol, 250 g, Yield 64% | N[C@H](C(=O)O)CSCC1=CC=C(C=C1)OC | C11H15NO3S
